US05547962
5-Amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
A mixture of 14.8 g of ethyl 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate, 37.2 ml of hydrochloric acid and 150 ml of 90% acetic acid was heated at reflux for 2 hours. After cooling, the deposited crystals were collected by filtration and washed with water to give 11.8 g of the desired compound as yellow crystals. The crystals were subsequently recrystallized from N,N-dimethylformamide to give yellow crystals, m.p. 290.5° C. (decomp.).

reactant | ethyl 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate | 14.8 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)C1CC1)C(=O)OCC)=O | C16H16F2N2O3
reactant | hydrochloric acid | 37.2 ml | Cl | ClH
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 5-Amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 11.8 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)C1CC1)C(=O)O)=O | C14H12F2N2O3
